US07829588B2
b. Synthesis of {4-[4-(5-Heptyl-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl)-2-propoxybenzylamino]phenyl}acetic acid ethyl ester
2.647 g (6.62 mmol, 3 eq) of resin-supported borohydride and 30 mg (0.06 mmol, 0.03 eq) of bis(bipyridine)dibromonickel (II) are added to a solution of 0.706 g (3.31 mmol, 1.5 eq) of 5-heptyl-4-methyl-4H-[1,2,4]-triazole-3-thiol in 10 ml of tetrahydrofuran/ethanol 5/5. To the suspension obtained there is added a solution of 100 mg (0.22 mmol, 1 eq) of ethyl [4-(4-iodo-2-propoxybenzylamino)phenyl]acetate in 10 ml of tetrahydrofuran/ethanol 5/5. The reaction mixture is stirred overnight under reflux. After returning to room temperature, the reaction medium is filtered, concentrated and then chromatographed on silica gel (heptane/ethyl acetate 40/60). After evaporation of the solvents, 0.750 g (63%) of the expected compound is recovered.

reactant | borohydride | 6.62 mmol, 2.647 g, 3 eq | [BH4-]
reactant | 5-heptyl-4-methyl-4H-[1,2,4]-triazole-3-thiol | 3.31 mmol, 0.706 g, 1.5 eq | C(CCCCCC)C=1N(C(=NN1)S)C | C10H19N3S
reactant | ethyl [4-(4-iodo-2-propoxybenzylamino)phenyl]acetate | 0.22 mmol, 100 mg, 1 eq | IC1=CC(=C(CNC2=CC=C(C=C2)CC(=O)OCC)C=C1)OCCC | C20H24INO3
solvent | tetrahydrofuran ethanol | 10 ml | O1CCCC1.C(C)O
solvent | tetrahydrofuran ethanol | 10 ml | O1CCCC1.C(C)O
product | {4-[4-(5-Heptyl-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl)-2-propoxybenzylamino]phenyl}acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NCC1=C(C=C(C=C1)SC1=NN=C(N1C)CCCCCCC)OCCC)=O | C30H42N4O3S
